US04629821
Preparation of Lepidopterene
9-(bromomethyl)anthracene (4 gm., 14.8 mmoles) was dissolved in 200 ml. of dioxane at 70° C. under nitrogen. With the addition of powdered stannous chloride dihydrate (3.2 gm., 14 mmoles), the solution turned orange brown. Coloration faded in a few minutes and the reaction mixture was allowed to stand at 70° C. for another half hour and then was diluted with an equal volume of methanol. The crude yellow-green precipitate was filtered and then dissolved in methylene chloride and the methylene chloride solution filtered to remove undissolved material. The solution was decolored and the lepidopterene reprecipitated from the methylene chloride solution by the addition of methanol to obtain 1 gm. (2.6 mmoles) of the colorless, crystalline solid (18% yield).

reactant | 9-(bromomethyl)anthracene | 14.8 mmoles, 4 gm | BrCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Br
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | Lepidopterene | 18% yield | C1C2C3=CC=CC=C3C4(C15C6=CC=CC=C6C(C4)C7=CC=CC=C57)C8=CC=CC=C28 | C30H22
